US04046769
Methyl 1-methyl-8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]-pyridine-2-carboxylate
A mixture of methyl 8-chloro-4,10-dihydro-4,10dioxo-1H-1-benzopyrano-[3,2-b]pyridine-2-carboxylate (7.0 g, 0.023 mole), methyl iodide (14 g, 0.099 mole) and potassium carbonate (3.22 g, 0.023 mole) in dimethyl formamide (100 ml) was stirred at 100° under nitrogen for 3 hrs. The reaction mixture was cooled. The product, which precipitated, was filtered, washed with water and dried. Recrystallization from DMF gave white crystals (6.3 g, 86%), m.p. 276°-278°.

reactant | methyl 8-chloro-4,10-dihydro-4,10dioxo-1H-1-benzopyrano-[3,2-b]pyridine-2-carboxylate | 0.023 mole, 7.0 g | ClC=1C=CC2=C(C(C=3NC(=CC(C3O2)=O)C(=O)OC)=O)C1 | C14H8ClNO5
reactant | methyl iodide | 0.099 mole, 14 g | CI | CH3I
reactant | potassium carbonate | 0.023 mole, 3.22 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl 1-methyl-8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]-pyridine-2-carboxylate | 6.3 g, 86% | CN1C2=C(C(C=C1C(=O)OC)=O)OC1=C(C2=O)C=C(C=C1)Cl | C15H10ClNO5
